US04410536
9-Benzyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to the compound described in Example 5, from 10.1 g of 5-hydrazino-3-methylbenzothiophene and 10 ml of benzyl-4-piperidone. Melting point: 93° C.

reactant | 5-hydrazino-3-methylbenzothiophene | 10.1 g | N(N)C=1C=CC2=C(C(=CS2)C)C1 | C9H10N2S
reactant | benzyl-4-piperidone | 10 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | 9-Benzyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(C1=CC=CC=C1)N1CC2=C(NC3=CC=C4C(=C23)C(=CS4)C)CC1 | C21H20N2S
